US09284333B2
To a solution of 6-(2,2,2-trichloro-acetyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ethyl ester (Comp. No. 4a) (1.2 g, 3.52 mmol) in anhydrous tetrahydrofuran (7 ml) was added pyrrolidine (0.376 g, 5.28 mmol). The resulting mixture was stirred at 55° C. for 1.5 h, and then evaporated to dryness. To the residue was added 15 ml water and 30 ml ethyl acetate and the layers were separated. The aqueous layer was extracted once with 15 ml ethyl acetate. The organic layers were combined and evaporated to dryness. The product was purified by flash chromatography to give 0.95 g (92%) of 6-(pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ethyl ester. LC/MS (method 4): Rt=1.14 min; m/z=293.22 (M+H+).

reactant | 6-(2,2,2-trichloro-acetyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=C(N2C1COCC2)C(C(Cl)(Cl)Cl)=O | C12H12Cl3NO4
reactant | pyrrolidine | 5.28 mmol, 0.376 g | N1CCCC1 | C4H9N
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 6-(pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ethyl ester | 0.95 g, 92% | C(C)OC(=O)C=1C=C(N2C1COCC2)C(=O)N2CCCC2 | C15H20N2O4
